US07939533B2
b) 4-Fluoro-2-formylphenylboronic Acid
To a solution of 2.30 g (9.31 mmol) 2-(2-bromo-5-fluoro-phenyl)-[1,3]dioxolane in 15 ml tetrahydrofuran was added dropwise at −70° C. 6.11 ml (9.77 mmol) of a 1.6 M solution of n-butyllithium in hexane. The reaction mixture was stirred at −74° C. for 1 h. After dropwise addition of 2.65 ml (11.2 mmol) triisopropyl borate at −70° C. the reaction mixture was allowed to warm to 15° C. during a period of 2 h. Water (7 ml) was added, and the mixture was acidified to pH 1 by addition of 37% hydrochloric acid solution. After heating at 60° C. for 1 h, the mixture was cooled to room temperature and extracted with three 50-ml portions of diethyl ether. The combined organic layers were washed with 50 ml brine, dried over sodium sulfate and concentrated. Flash chromatography gave 1.2 g (77%) of the title compound as a light yellow liquid.

reactant | 2-(2-bromo-5-fluoro-phenyl)-[1,3]dioxolane | 9.31 mmol, 2.30 g | BrC1=C(C=C(C=C1)F)C1OCCO1 | C9H8BrFO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | 11.2 mmol, 2.65 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | Water | 7 ml | O | H2O
product | 4-Fluoro-2-formylphenylboronic Acid | 1.2 g, 77% | FC1=CC(=C(C=C1)B(O)O)C=O | C7H6BFO3
